US09334271B2
In a sealed tube, to a solution of 8-bromo-2-chloro-6-((R)-3-methyl-morpholin-4-yl)-9H-purine (495 mg, 1.49 mmol) in CH3CN/H2O (11/1.1 mL) was added cesium fluoride (452 mg, 2.98 mmol), indole-4-boronic acid (266 mg, 1.64 mmol), and tetrakis(triphenylphosphine)palladium (172 mg, 0.15 mmol). Then the reaction was conducted under microwave irradiation at 160° C. for 30 min. The solvents were removed under reduced pressure and the crude was purified by flash column chromatography (20-100% EtOAc/cyclohexane gradient) to provide 2-chloro-8-(1H-indol-4-yl)-6-((R)-3-methyl-morpholin-4-yl)-9H-purine (350 mg, 63.8%) as a pale yellow solid. LC-MS at 254 nm; [M+H] 369.2; Rt 1.00 min; (LCMS method 1). (400 MHz, DMSO-d6): 13.59 (s, 1H), 11.41 (s, 1H), 7.73 (dd, 1H), 7.58-7.49 (m, 2H), 7.38-7.20 (m, 2H), 5.14 (s, 1H), 4.05-4.01 (m, 1H), 3.79-3.88 (m, 1H), 3.69-3.79 (m, 1H), 3.57 (s, 1H), 3.60 (s, 1H), 1.41 (d, 3H)

reactant | 8-bromo-2-chloro-6-((R)-3-methyl-morpholin-4-yl)-9H-purine | 1.49 mmol, 495 mg | BrC=1NC2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)Cl | C10H11BrClN5O
reactant | cesium fluoride | 2.98 mmol, 452 mg | [F-].[Cs+]
reactant | indole-4-boronic acid | 1.64 mmol, 266 mg | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
solvent | CH3CN H2O | 1.1 mL | CC#N.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.15 mmol, 172 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-8-(1H-indol-4-yl)-6-((R)-3-methyl-morpholin-4-yl)-9H-purine | 350 mg, 63.8% | ClC1=NC(=C2N=C(NC2=N1)C1=C2C=CNC2=CC=C1)N1[C@@H](COCC1)C | C18H17ClN6O
